* D:\saját\2020\ChargeSensitivePreamplifier\Power_filter.asc
C1 N007 0 100µ Rser=0
C2 N008 0 22µ
V1 N005 0 AC 1
R3 N008 0 500
R1 N007 N006 100
R4 N006 N005 1
V2 N004 0 AC 1
R5 N004 N003 1
C3 N002 0 100µ
C4 N001 0 22µ
R8 N001 0 500
V3 N010 0 AC 1
R7 N012 N011 51.
R9 N011 N010 1
C5 N012 0 22µ
R10 N012 0 500
L2 N007 N008 390µ Rser=36 Cpar=2.6E-12
V4 N013 0 AC 1
L3 N013 0 100µ Rser=35 Cpar=1.76E-12
R2 N003 N002 100
L1 N001 N002 100µ Rser=21 Cpar=1.76E-12
.ac dec 100 1 100000000
.backanno
.end
