* D:\saját\2020\ChargeSensitivePreamplifier\RLC filter.asc
R1 N002 N001 100
C1 N002 0 100µ
V1 P001 0 AC 1
C2 N003 0 22µ
R3 0 N003 1k
L1 N002 N003 1000µ Rser=40
R4 N001 P001 1
.ac dec 100 1 1000000
.backanno
.end
